US09102673B2
Step 1: Methyl 4-chloro-1-[(5-phenyl-1,2,4-oxadiazol-3-yl)methyl]-1H-pyrrolo[3,2-c]pyridine-2-carboxylate
To a solution of methyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate (500 mg, 2.374 mmole) in DMF (10 mL) was added NaH (60% dispersion in mineral oil, 123 mg, 3.09 mmole) portionwise at RT. After 30 min 3-(chloromethyl)-5-phenyl-1,2,4-oxadiazole (601 mg, 3.09 mmole) was added all at once as a solid. After 6 hr the mixture was diluted with saturated aqueous NH4Cl and extracted with EtOAc (3×). The combined organic layers were dried (MgSO4), filtered, and concentrated. Flash column chromatography (Biotage-SNAP-25 g SiO2, O-20% EtOAc/hexanes) gave the title compound (553 mg, 63%) as a white solid. 1H NMR (400 MHz, CDCl3): δ 8.21 (d, J=6.0 Hz, 1 H); 8.05 (dd, J=7.8, 1.5 Hz, 2 H); 7.59-7.54 (m, 1 H); 7.54-7.44 (m, 3 H); 7.39-7.35 (m, 1 H); 6.03 (s, 2 H); 3.97 (s, 3 H).

reactant | methyl 4-chloro-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 2.374 mmole, 500 mg | ClC1=NC=CC2=C1C=C(N2)C(=O)OC | C9H7ClN2O2
reactant | NaH | 3.09 mmole, 123 mg | [H-].[Na+]
reactant | 3-(chloromethyl)-5-phenyl-1,2,4-oxadiazole | 3.09 mmole, 601 mg | ClCC1=NOC(=N1)C1=CC=CC=C1 | C9H7ClN2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | NH4Cl | [NH4+].[Cl-]
product | Methyl 4-chloro-1-[(5-phenyl-1,2,4-oxadiazol-3-yl)methyl]-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 553 mg, 63% | ClC1=NC=CC2=C1C=C(N2CC2=NOC(=N2)C2=CC=CC=C2)C(=O)OC | C18H13ClN4O3
